US09193724B2
Phenyl chloroformate (4.2 mL, 0.033 mol) was added to a mixture of 3-bromo-5-fluoro-pyridine (5.5 g, 0.031 mol), dimethyl sulphide (15.32 mL, 0.209 mol) and copper iodide (5.95 g, 0.031 mol) in anhydrous tetrahydrofuran (50 mL) at RT and the reaction mixture was stirred for 40-50 min. To this suspension, cyclopropylmagnesiumbromide (66.75 mL, 0.033 mol, 0.5 M solution in tetrahydrofuran) was added at −25 to −20° C. over a 30-40 min period. The mixture was stirred at this temperature for 30 min, and then warmed slowly to RT over 1.0-1.5 hrs. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (200 mL), followed by extraction of the aqueous layer with ethyl acetate (3×200 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (2×100 mL), and dried over anhydrous sodium sulphate to afford the crude compound, which was purified by silica gel chromatography using 0-5% ethyl acetate-hexane gradient. This yielded crude phenyl 3-bromo-4-cyclopropyl-5-fluoro-4H-pyridine-1-carboxylic acid phenyl ester.

reactant | Phenyl chloroformate | 0.033 mol, 4.2 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-bromo-5-fluoro-pyridine | 0.031 mol, 5.5 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | dimethyl sulphide | 0.209 mol, 15.32 mL | CSC | C2H6S
reactant | cyclopropylmagnesiumbromide | 0.033 mol, 0.5 M, 66.75 mL | C1(CC1)[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.031 mol, 5.95 g | [Cu](I)I
product | phenyl 3-bromo-4-cyclopropyl-5-fluoro-4H-pyridine-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1C(=C(C(C(=C1)F)C1CC1)Br)C1=CC=CC=C1 | C21H17BrFNO2
